US08609653B2
methyl 4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate
A mixture of methyl 6-amino-4-(chroman-6-yl)-5-formyl-2-methylnicotinate (4.5 g, 13.79 mmol) and cesium carbonate (8.99 g, 27.6 mmol) in methanol (180 mL) was heated to 55° C. and then treated with TMSCHN2, 2.0 M solution in hexanes (27.6 mL, 55.2 mmol). The mixture was heated to 60° C. for several minutes until LCMS and TLC showed the reaction was complete. The mixture was cooled in an ice-bath and then quenched with saturated ammonium chloride. The mixture was extracted with ethyl acetate. The extracts were washed with brine, dried over sodium sulfate, filtered and concentrated to afford the crude product (4.3 g, 13.34 mmol, 97% yield) as a pale yellow solid: 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.34 (br. s., 1 H), 7.28-7.21 (m, 2 H), 6.93-6.87 (m, 1 H), 6.48 (d, J=2.9 Hz, 1 H), 4.30-4.25 (m, 2 H), 3.72-3.68 (m, 3 H), 2.90-2.83 (m, 2 H), 2.74 (s, 3 H), 2.12-2.05 (m, 2 H); LC/MS (m/z) ES+=323.24 (M+1).

reactant | methyl 6-amino-4-(chroman-6-yl)-5-formyl-2-methylnicotinate | 13.79 mmol, 4.5 g | NC1=NC(=C(C(=O)OC)C(=C1C=O)C=1C=C2CCCOC2=CC1)C | C18H18N2O4
reactant | cesium carbonate | 27.6 mmol, 8.99 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | TMSCHN2 | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | methanol | 180 mL | CO | CH4O
product | methyl 4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate | 13.34 mmol, 4.3 g, 97% yield | O1CCCC2=CC(=CC=C12)C1=C2C(=NC(=C1C(=O)OC)C)NC=C2 | C19H18N2O3
